US07105531B2
4-Oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile
A suspension of 5.6 g (30 mmol) of 3-amino-2-napthoic acid in 30 mL of N,N-dimethylformamide dimethyl acetal is refluxed for 6 hours. Removal of the solvent yields 7.06 g (86.4%) of methyl 3-{[(dimethylamino)methylidene]amino}-2-naphthoate as a dark oil residue. To a solution of 20.8 mL (52 mmol) of n-butyllithium (2.5M in hexane) in 18 mL of tetrahydrofuran (THF) is added dropwise a solution of 5.97 mL (114 mmol) of acetonitrile in 100 mL of THF at −78° C. After completion of addition, the suspension is stirred for 15 minutes. To this is added 7.02 g (26 mmol) of 3-{[(dimethylamino)methylidene]amino}-2-naphthoate in 50 mL of THF dropwise. The resulting reaction mixture is stirred at −78° C. for 1 hour. Then 7.8 g (130 mmol) of acetic acid is added dropwise. The reaction mixture is warmed up to room temperature and diluted with water. The precipitate is collected by filtration and washed with water and ethyl acetate. After drying in vacuo, this yields 3.80 g (67%) of the product as a yellow solid, mp>260° C.

reactant | n-butyllithium | 52 mmol, 2.5M, 20.8 mL | C(CCC)[Li]
reactant | acetonitrile | 114 mmol, 5.97 mL | C(C)#N | C2H3N
reactant | 3-{[(dimethylamino)methylidene]amino}-2-naphthoate | 26 mmol, 7.02 g | CN(C)C=NC=1C(=CC2=CC=CC=C2C1)C(=O)[O-]
reactant | acetic acid | 130 mmol, 7.8 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | THF | 100 mL | O1CCCC1 | C4H8O
solvent | THF | 50 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-Oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | O=C1C(=CNC2=CC3=C(C=C12)C=CC=C3)C#N | C14H8N2O
